US04588732
A solution of 6-aminomethyl-2-(p-ethoxycarbonylphenyl)pyridine (10.76 g) in 10 ml of formic acid is heated at 90° for 15 hours. The reaction is cooled to 0°, basified with excess saturated ammonium hydroxide solution and extracted with chloroform (4×30 ml). The organic extracts are dried and evaporated to yield 2-(p-ethoxycarbonylphenyl)-6-formylaminomethylpyridine which is recrystallized from toluene, m.p. 119.5°-120.5°.

reactant | 6-aminomethyl-2-(p-ethoxycarbonylphenyl)pyridine | 10.76 g | NCC1=CC=CC(=N1)C1=CC=C(C=C1)C(=O)OCC | C15H16N2O2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | formic acid | 10 ml | C(=O)O | CH2O2
product | 2-(p-ethoxycarbonylphenyl)-6-formylaminomethylpyridine | C(C)OC(=O)C1=CC=C(C=C1)C1=NC(=CC=C1)CNC=O | C16H16N2O3
